US06583135B2
tert-butyl 6-[3-(4-methoxyanilino)-3-oxopropyl]-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (0.110 g, 0.238 mmol) was disolved in CH2Cl2 (5 mL) and trifluoroacetic acid (2.0 mL, 2.96 g, 26.0 mmol, 109 equiv.) was added. The resulting solution was stirred at rt for 2.5 h. The reaction mixture was concentrated to dryness, and the residue was partitioned between EtOAc and 1N NaOH. The layers were separated, and the aqueous layer was extracted with EtOAc. The combined organic layers were washed with brine, dried over MgSO4, filtered, and concentrated. The crude product (0.0805 g) was combined with EtOAc (2 mL), and 1M HCl in Et2O (2 mL) and the salt was collected by filtration. The salt was dried under vacuum over P2O5. N-(4-methoxyphenyl)-3-(2,3,4,5-tetrahydroazepino[4,5-b]indol-6(1H)-yl)propanamide hydrochloride (0.0796 g) was obtained in 84% yield. 1H NMR (300 MHz, CD3OD) δ 2.76, 3.13-3.17, 3.28-3.39, 3.74, 4.55, 6.82, 7.08, 7.18, 7.26, 7.44, 7.47; MS (ESI+) for C22H25N3O2 m/z 364.1 (M+H)+.

reactant | tert-butyl 6-[3-(4-methoxyanilino)-3-oxopropyl]-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 0.238 mmol, 0.110 g | COC1=CC=C(NC(CCN2C3=C(C=4C=CC=CC24)CCN(CC3)C(=O)OC(C)(C)C)=O)C=C1 | C27H33N3O4
reactant | trifluoroacetic acid | 26.0 mmol, 2.0 mL, 2.96 g, 109 equiv. | FC(C(=O)O)(F)F | C2HF3O2
reactant | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | N-(4-methoxyphenyl)-3-(2,3,4,5-tetrahydroazepino[4,5-b]indol-6(1H)-yl)propanamide hydrochloride | 0.0796 g, 84% yield | Cl.COC1=CC=C(C=C1)NC(CCN1C2=C(C=3C=CC=CC13)CCNCC2)=O | InChI=1S/C22H25N3O2.ClH/c1-27-17-8-6-16(7-9-17)24-22(26)12-15-25-20-5-3-2-4-18(20)19-10-13-23-14-11-21(19)25;/h2-9,23H,10-15H2,1H3,(H,24,26);1H
